Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Levaquin / Doxycycline / Augmentin
 
Attending: ___.
 
Chief Complaint:
Right upper lobe nodule
 
Major Surgical or Invasive Procedure:
___ - Video assisted thoracoscopic surgery right upper lobe 
wedge resection and mediastinal lymph node dissection

 
History of Present Illness:
___ who we have been following for lung nodules since ___. 
Initially he was followed for LUL nodules. Then he was followed 
for a RML lesion, bronchoscopy and BAL with biopsy did not show 
malignancy. The RUL nodule was noted in ___ to be 4 mm which 
has increased in size and is 8x12 mm on CT ___. His PET-CT 
___ showed FDG avidity( 2.31) of the lesion. Since his prior 
visit in ___, he reported improvement in his breathing and 
denies SOB, DOE, cough, sweats, wt loss, HA,or bony pain.

 
Past Medical History:
severe COPD
lung nodules
tobacco abuse

 
Social History:
___
Family History:
Mother
Father
___: brother TB
___
 
Physical Exam:
UPON DISCHARGE:
Vitals: 97.8  95  98/58  18  99%RA
Gen: NAD 
CV: RRR +S1/S2
Resp: CTAB with distant lung sounds throughout, symmetric 
expansion and normal excursion, no rhonchi/wheezes/crackles
Inc: healing well, clean/dry/intact with no 
erythema/induration/drainage
Abd: soft, NT/ND, +BS
Neuro: CN2-12 grossly intact, ___ motor strength throughout 
 
Pertinent Results:
CHEST X-RAY (___): The left lung is well expanded and 
clear.  The right lung shows a new upper lobe opacity.  There is 
a probable small pneumothorax.  The right chest tube is present. 
 A small amount of subcutaneous emphysema is noted in the right 
chest wall. 

CHEST X-RAY (___): 1. After the right chest tube removal, a 
small right apical pneumothorax has slightly increased in size 
in comparison to the prior exam one day earlier. 2. Stable 
opacity in the right upper lobe, likely related to a small 
amount of hemorrhage. 

OPERATIVE PATHOLOGY: Pending at time of discharge

 
Brief Hospital Course:
Mr. ___ was admitted to the Thoracic Surgery Service on 
___ for a right VATS, wedge resection of RUL nodule and 
mediastinal lymph node dissection. The procedure went well, 
without complication; the reader is referred to the Operative 
Note for details. After a brief stay in the Post-Anesthesia Care 
Unit, he was transferred to the general surgical floor for 
further care. He was on a clear liquid diet to advance as 
tolerated to a regular diet, with oral medications for pain 
control, with a chest drain in place to waterseal, with a foley 
catheter in place. The foley catheter was removed at midnight.

On POD#1 (___) he was able to void independently, although 
he did express some sensation of initial urinary retention. He 
was able to ambulate, expressed good pain control on oral 
medications, was easily weaned off supplemental oxygen, and was 
tolerating a regular diet. He expressed interest in completing 
his recovery at home. He was explained and expressed 
understanding (by means of translation by his son), of the 
discharge plan, and was discharged home in good condition. He is 
scheduled to follow up with Dr. ___ on ___ 
with a chest x-ray on that same morning. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Albuterol-Ipratropium ___ PUFF IH Q6H 

 
Discharge Medications:
1. Albuterol-Ipratropium ___ PUFF IH Q6H 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right upper lobe pulmonary nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital where you underwent a right 
VATS, wedge resection of RUL nodule and mediastinal lymph node 
dissection. You have recovered well in the hospital, and are now 
ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage. Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours. If it 
starts to drain, cover it with a clean dry dressing and change 
it as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems. Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol ___ mg every 6 hours in between your narcotic. If 
your doctor allows you may also take Ibuprofen to help relieve 
the pain.
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call the Thoracic Clinic at ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.

 
Followup Instructions:
___